US06265415B1
Synthesis of 3-ethyl-1-fluoro-5-methylbenzene
Methyllithium (40 ml, 64 mmol) was added dropwise at 0° C. to a slurry of copper(I)iodide (6.42 g, 33.6 mmol) in diethyl ether (20 ml). After being stirred at 0° C. for 30 minutes, the clear colorless homogeneous cuprate solution was cooled to −78° C. where 3-bromomethyl-1-fluoro-5-methylbenzene (5.15 g, 25.4 mmol) in 10 ml diethyl ether was added. The temperature was allowed to rise slowly. The reaction was quenched at −50° C. with NH4Cl/NH3-buffer (50 ml). Extraction with diethyl ether (3×50 ml), brine (1×100 ml). The organic layer was dried over MgSO4, filtered and the solvents were removed to yield 3.3 g (94%) of the title compound.

reactant | Methyllithium | 64 mmol, 40 ml | C[Li]
reactant | 3-bromomethyl-1-fluoro-5-methylbenzene | 25.4 mmol, 5.15 g | BrCC=1C=C(C=C(C1)C)F | C8H8BrF
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
catalyst | copper(I)iodide | 33.6 mmol, 6.42 g | [Cu]I
product | 3-ethyl-1-fluoro-5-methylbenzene | 3.3 g, 94% | C(C)C=1C=C(C=C(C1)C)F | C9H11F
